US09061994B1
Synthesis of 2-isobutyl-5-methoxyindole-3-carboxaldehyde (106d)
Dimethylformamide (1 mL) was cooled to 0° C. Phosphorus oxychloride (0.5 mL) was added and the reaction mixture was stirred for 10 minutes. A solution of 2-isobutyl-5-methoxyindole (375 mg, 1.8 mmol) in dimethylformamide (2 mL) was added to the reaction mixture dropwise over 10 minutes. The solution was stirred for an additional 40 minutes. The reaction mixture was added to ice cold 1 N NaOH (35 mL) and stirred for 10 minutes. The precipitate was collected, washed with cold water (30 mL) and dried overnight in a vacuum desiccator set at 40° C. equipped to an oil driven vacuum pump yielding a tan solid (393 mg, 94%): TLC Rf 0.45 in 1:1 ethyl acetate/hexanes. Melting point=146-147° C. 1H NMR (600 MHz, CDCl3) δ 10.13 (s, 1H), 8.74 (s, 1H), 7.81 (d, 1H, J=2.5 Hz), 7.24-7.23 (d, 1H, J=8.7 Hz), 6.89-6.87 (dd, 1H, J1=8.7 Hz, J2=2.5 Hz), 3.87 (s, 3H), 2.93-2.92 (d, 2H, J=7.3 Hz), 2.11-2.05 (m, 1H), 1.02-1.01 (d, 6H, J=6.7 Hz); 13C NMR (150 MHz, CDCl3) δ 184.62, 156.48, 150.72, 129.69, 126.68, 115.22, 113.59, 111.55, 102.99, 55.80, 35.46, 30.08, 22.51. Elemental analysis calculated for C14H17NO2: C, 72.70; H, 7.41; N, 6.06. Found: C, 72.62; H, 7.52; N, 5.98.

reactant | Phosphorus oxychloride | 0.5 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-isobutyl-5-methoxyindole | 1.8 mmol, 375 mg | C(C(C)C)C=1NC2=CC=C(C=C2C1)OC | C13H17NO
reactant | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
reactant | Dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 2-isobutyl-5-methoxyindole-3-carboxaldehyde | 393 mg, 94% | C(C(C)C)C=1NC2=CC=C(C=C2C1C=O)OC | C14H17NO2
